US07282512B2
[1-(3-Pyridinylmethyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate was prepared as in example 9j except that [1-(3-pyridinylmethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate was substituted for (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate. ES-LCMS m/z 616 (M+Na). Retention time=2.94 min. LC-MS results obtained using a Phenomenex max RP 50×2 MM column with 4 u packing eluted at 0.8 mL/min with a 5 minute gradient from 85% water: 15% methanol to 100% methanol. The mobile phase contained a 0.1% formic acid modifier. HRMS C32H43N5O6 m/z 594.3292 (M+Na)Cal; 594.3279 (M+Na)Obs.

reactant | [1-(3-pyridinylmethyl)cyclobutyl]methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCC1)CC=1C=NC=CC1)=O | C32H45N5O6
reactant | (1-benzylcyclohexyl)methyl(1S)-1-(1-hydroxy-2-oxo-2-{[(1R)-1-phenylethyl]amino}ethyl)-5-[(4-morpholinylcarbonyl)amino]pentylcarbamate | OC(C(N[C@H](C)C1=CC=CC=C1)=O)[C@H](CCCCNC(=O)N1CCOCC1)NC(OCC1(CCCCC1)CC1=CC=CC=C1)=O | C35H50N4O6
product | [1-(3-Pyridinylmethyl)cyclobutyl]methyl(1S)-5-[(4-morpholinylcarbonyl)amino]-1-(oxo{[(1R)-1-phenylethyl]amino}acetyl)pentylcarbamate | N1(CCOCC1)C(=O)NCCCC[C@@H](C(C(N[C@H](C)C1=CC=CC=C1)=O)=O)NC(OCC1(CCC1)CC=1C=NC=CC1)=O | C32H43N5O6
